US06316482B1
Thionyl chloride (8.3 ml) was added dropwise to 2-hydroxymethyl-4-nitro-1H-benzimidazole (1.15 g) at 0° C. and the suspension was then heated at reflux for 3 hours. The excess of thionyl chloride was removed in vacuo, and the residue was poured into ice and adjusted to pH 7 with saturated sodium bicarbonate aqueous solution. The precipitate was collected by vacuum filtration and washed water to give 2-chloromethyl-4-nitro-1H-benzimidazole (1.32 g).

reactant | Thionyl chloride | 8.3 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-hydroxymethyl-4-nitro-1H-benzimidazole | 1.15 g | OCC1=NC2=C(N1)C=CC=C2[N+](=O)[O-] | C8H7N3O3
product | 2-chloromethyl-4-nitro-1H-benzimidazole | 1.32 g | ClCC1=NC2=C(N1)C=CC=C2[N+](=O)[O-] | C8H6ClN3O2
